* C:\git\ltspice-projects\Juno filter - xm8 half volt octave - correct juno VCA and RESO CVs with const current sources.asc
R1 N016 N011 4.7k
R2 0 N016 560
C1 N025 0 330pF
R3 N012 N016 68k
R4 cutoff_cc N021 10k
R5 N017 N012 68k
R6 0 N017 560
C2 N026 0 330pF
R7 N013 N017 68k
R8 cutoff_cc N022 10k
R9 N018 N013 68k
R10 0 N018 560
C3 N027 0 330pF
R11 N014 N018 68k
R12 cutoff_cc N023 10k
R13 N019 N014 68k
R14 0 N019 560
C4 N028 0 330pF
R15 N015 N019 68k
R16 cutoff_cc N024 10k
R17 N020 N015 100k
R18 0 N020 1.5k
R19 N009 0 1.5k
XU1 NC_01 0 N016 N021 N025 15V -15V 0 NC_02 HALF13700
XU2 NC_03 0 N017 N022 N026 15V -15V 0 NC_04 HALF13700
XU5 NC_05 0 N018 N023 N027 15V -15V 0 NC_06 HALF13700
XU7 NC_07 N009 N020 RESO_I_ABC N016 15V -15V 0 NC_08 HALF13700
XU9 0 0 N019 N024 N028 15V -15V 0 NC_09 HALF13700
XU11 NC_10 P001 N039 VCA_I_ABC N035 15V -15V 0 NC_11 HALF13700
R23 N039 0 560
R24 P001 0 560
R25 N039 N038 4.7k
C6 N037 N015 1µ
R28 N038 N043 2.2MEG
R31 N038 N034 82k
R32 N009 N011 24k
R34 N008 N007 10k
R35 N002 N008 8k2
R36 0 N002 560
C7 N008 0 0.1µ
Q3 N001 0 N004 0 PNP
Q4 cutoff_cc N002 N004 0 PNP
R40 N004 N006 1.5k
R41 -15V N001 1.5MEG
C8 N001 N006 47p
R42 N003 -15V 390k
R43 N003 FREQ_CV 49.9k
R44 N005 N003 100k
V4 15V 0 15
V5 0 -15V 15
XU10 N001 0 N006 opamp Aol=100K GBW=10Meg
XU13 N003 0 N005 opamp Aol=100K GBW=10Meg
R20 N003 P002 270k
XU14 15V -15V P002 pot_lin Rtot=10K wiper=.5
XU3 N012 N025 N012 opamp Aol=100K GBW=10Meg
XU4 N013 N026 N013 opamp Aol=100K GBW=10Meg
XU6 N014 N027 N014 opamp Aol=100K GBW=10Meg
XU8 N015 N028 N015 opamp Aol=100K GBW=10Meg
XU15 N007 N005 N005 pot_lin Rtot=20K wiper=.404
Q1 N033 N030 N029 0 PNP
V6 FREQ_CV 0 10
V7 VCA_CV 0 5
V12 RESO_CV 0 0
V1 IN 0 SINE(0 5 5000) AC 1
XU16 15V -15V N043 pot_lin Rtot=100K wiper=.41
R29 IN N010 100k
XU17 N010 0 N011 opamp Aol=100K GBW=10Meg
R38 N010 N011 3.3k
XU19 N035 0 N036 opamp Aol=100K GBW=10Meg
XU20 N032 0 OUT opamp Aol=100K GBW=10Meg
R22 N035 N036 47k
R30 N032 OUT 82k
R39 N036 N032 47k
C5 OUT N032 22p
R26 N031 N029 1MEG
XU12 N029 0 N030 opamp Aol=100K GBW=10Meg
XU21 0 -15V N031 pot_lin Rtot=10K wiper=0.5
XU18 N037 NC_12 N034 pot_lin Rtot=50K wiper=1
R21 N029 VCA_CV 15k
D1 N030 N029 D
R27 VCA_I_ABC N033 10k
Q2 N044 N041 N040 0 PNP
R33 N042 N040 1MEG
XU22 N040 0 N041 opamp Aol=100K GBW=10Meg
XU23 0 -15V N042 pot_lin Rtot=10K wiper=0.5
R37 P003 RESO_CV 12k
D2 N041 N040 D
R45 RESO_I_ABC N044 10k
XU24 P003 NC_13 N040 pot_lin Rtot=20K wiper=1
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.lib LTC.lib
.lib lm13700.sub
.tran 0 0.01 0 0.01
.lib opamp.sub
.step param acv 0V 5V 1V
* 21.92k gir 17.9mV
;ac oct 100 0.1 180000
* Weird, but i need a 20k pot here to get \napprox 22k total here.
* No change to voltage if\nR34 and R35 are merged\nand C7 removed.
* 1V/Oct summing point.\n50k inp. resistor gives\n0.5V/oct
* TODO: Set default non-tuned frequency\nto same as moog filter.
* Summing point\nUse 100k resistor
* Audio:\nMax 10v p.p
* 24dB
* 12dB
* Switching: 4051 or 4066, both can use \n+/- 7.5V rails and switch within those. \nmax swing here at 20Vp.p is less than\n10Vpp.\n \nVishay DG419DY-E3 er +/-15V @11kr/stk (SPDT)
* The cap here acts as a LP filter.\nWith 22p/82k we get a cutoff of about 50kHz.\nIt may be necessary to adjust this.
;dc v7 0 5 0.01
* VCA Gain (amplitude)
* VCA offset
* max -301uA on juno, \nmax -320 here.
* Adjust base octave\n+/- 5.6 octaves (volts)
* Adds 3.8V \nto output
* Deadband adjust,\nadd offset at bottom \nof CV for full off,\n0 to 220mV
* sum point, 15k\nresistor for similar \nresponse as CV
* Use 1.5MEG resistor\nto -15V for fixed 0.15V\noffset of CV instead of\nusing potmeter
* max -205 to -356 uA on juno, \nmax -147 to -405 uA here.
* Leaving out the 1Meg and\ntrimpots will give I_abc very\nclose to 0 but may not be\nperfect and thus not 100%\noff.
* VCA trimming:\nSet FREQ_CV to 5V and use a 500Hz sine wave on the input.\nAdjust deadband pot to your liking. Set VCA_CV to 5V. Adjust VCA gain to get\nunity gain, adjust wave balance with VCA offset.
.lib potentiometer_standard.lib
.backanno
.end
